US04347252
To a stirred solution of 3,5-bistrifluoromethyliodobenzene (which may be prepared as described by S. D. Ross et al, J. Amer. Chem. Soc. (1953), 75, 4967-4969; 340.1 g) in anhydrous diethylamine (665 ml), cooled to 10° C. and under an inert atmosphere, there were added successively copper (I) iodide (1.81 g) and dichlorobis(triphenylphosphine)palladium (3.51 g). 2-Propyn-1-ol (57.8 g) was then added dropwise over 20 minutes and the reaction mixture was then maintained, with stirring, at 25° to 30° C. for 4 hours. The reaction mixture was then maintained overnight, with stirring, at ambient temperature. The solvent was removed by evaporation under reduced pressure (water-pump) and the crystalline residue was partitioned between diethyl ether (670 ml) and water (200 ml). The ether layer was separated, washed with water (2×200 ml), dried over anhydrous sodium sulphate and evaporated under reduced pressure (water-pump). The solid residue thus obtained was distilled to give 1-(3,5-bistrifluoromethylphenyl)-prop-1-yn-3-ol, in the form of a white crystalline solid (231.7 g), m.p. 58°-60° C., b.p. 87°-91° C./1 mm Hg.

reactant | 3,5-bistrifluoromethyliodobenzene | 340.1 g | FC(C=1C=C(C=C(C1)C(F)(F)F)I)(F)F | C8H3F6I
reactant | 2-Propyn-1-ol | 57.8 g | C(C#C)O | C3H4O
solvent | diethylamine | 665 ml | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 1.81 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 3.51 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(3,5-bistrifluoromethylphenyl)-prop-1-yn-3-ol | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCO)(F)F | C11H6F6O
